US06787543B2
Formic acid (28 μl ) was added to a mixture of (4R,9aS)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine trihydrochloride (100 mg), N,N-diisopropylethylamine (129 μl), 1-hydroxybenzotriazole (30.1 mg) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (34.2 mg) in dichloromethane (2.0 ml). After being stirred for 18 hours at room temperature, the resulting mixture was poured into water, and the whole was extracted with ethyl acetate, dried over sodium sulphate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography using a mixed solvent of dichloromethane and methanol (20:1). The fractions containing the objective compound was collected and evaporated under reduced pressure and resulting residue was treated with 4N hydrogen chloride in ethyl acetate to give (6R,9aR)-6-benzhydryl-8-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine-2-carbaldehyde dihydrochloride (100.1 mg) as colourless powder.

reactant | (4R,9aS)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine trihydrochloride | 100 mg | Cl.Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1CCNC2)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC
reactant | N,N-diisopropylethylamine | 129 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole | 30.1 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 34.2 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | Formic acid | 28 μl | C(=O)O | CH2O2
product | (6R,9aR)-6-benzhydryl-8-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine-2-carbaldehyde dihydrochloride | 100.1 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1CCN(C2)C=O)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC | InChI=1S/C31H32F3N7O2.2ClH/c1-43-28-13-12-25(41-30(31(32,33)34)35-36-37-41)16-24(28)17-39-19-26-18-38(21-42)14-15-40(26)27(20-39)29(22-8-4-2-5-9-22)23-10-6-3-7-11-23;;/h2-13,16,21,26-27,29H,14-15,17-20H2,1H3;2*1H/t26-,27-;;/m0../s1
